US06667314B2
Benzyl (1S)-3-oxo-1-phenylpropylcarbamate
Sulphur trioxide pyridine complex (965 g, 6.1 mol) was slurried in dichloromethane (2 l) under an atmosphere of nitrogen. Dimethylsulfoxide (2 l) was added and the resultant solution was cooled to 0° C. A solution of benzyl (1S)-3-hydroxy-1-phenylpropylcarbamate (577 g, 2.0 mol), triethylamine (845 ml, 6.1 mol) and dimethylsulfoxide (1 l) in dichloromethane (1 ml) was added slowly to the reaction mixture keeping temperature below 10° C. The resultant yellow solution was stirred at 0° C. for 2.5 hours. A sample was analysed by TLC indicating that all starting material was consumed. Water (8.6 l) was added and a biphasic mixture was obtained. The mixture was diluted with toluene (8.6 l) and the layers were separated. The organic layer was concentrated under reduced pressure to yield a brown foam, which was taken on to Preparation 19 without further purification.

reactant | Dimethylsulfoxide | 2 l | CS(=O)C | C2H6OS
reactant | benzyl (1S)-3-hydroxy-1-phenylpropylcarbamate | 2.0 mol, 577 g | OCC[C@@H](C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O | C17H19NO3
reactant | triethylamine | 6.1 mol, 845 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 1 l | CS(=O)C | C2H6OS
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | toluene | 8.6 l | C1(=CC=CC=C1)C | C7H8
product | Benzyl (1S)-3-oxo-1-phenylpropylcarbamate | O=CC[C@@H](C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O | C17H17NO3
